US08541588B2
2-(3-Furyl)-4-(trifluoromethyl)phenyl acetate
2-Iodo-4-(trifluoromethyl)phenol (9.9 g, 0.0344 mol) was dissolved in 2-methyl tetrahydrofuran (100 mL) then potassium acetate (11.8 g, 0.12 mol) and 3-furylboronic acid (5.0 g, 0.0447 mol) was added and the reaction degasses 3 times before bis(tri-tert-butylphosphine) palladium (0) (1.0 g, 0.00196 mol) was added and the reaction degassed 3 more times. The reaction was then stirred at 90° C. under nitrogen for 18 hours. The reaction was then cooled and partitioned between EtOAc (50 mL) and water (50 mL), the organic layer was separated and dried in vacuo to give a brown oil. This was dissolved in tert-butyl methyl ether (50 mL), triethylamine (7.2 mL, 0.051 mol) added then acetic anhydride (4.7 mL, 0.051 mol) and stirred for 2 hours at room temperature. The reaction was then partitioned between EtOAc (30 ml) and water (30 ml) then organic layer was dried in vacuo to give a brown oil which crystallised upon standing. This was triturated with heptane to give the title product as a pale brown solid (8.04 g, 86.6%). LCMS Rt=1.70 min. 1H NMR (400 MHz, CDCl3): δ 2.34 (s, 3H), 6.67 (s, 1H) 7.26 (m, 1H) 7.51 (s, 1H), 7.57 (d, 1H), 7.76 (m 2H)

reactant | 2-Iodo-4-(trifluoromethyl)phenol | 0.0344 mol, 9.9 g | IC1=C(C=CC(=C1)C(F)(F)F)O | C7H4F3IO
reactant | potassium acetate | 0.12 mol, 11.8 g | C(C)(=O)[O-].[K+]
reactant | 3-furylboronic acid | 0.0447 mol, 5.0 g | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | triethylamine | 0.051 mol, 7.2 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.051 mol, 4.7 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | 2-methyl tetrahydrofuran | 100 mL | CC1OCCC1 | C5H10O
solvent | tert-butyl methyl ether | 50 mL | COC(C)(C)C | C5H12O
catalyst | bis(tri-tert-butylphosphine) palladium (0) | 0.00196 mol, 1.0 g | [Pd].C(C)(C)(C)P(C(C)(C)C)C(C)(C)C.C(C)(C)(C)P(C(C)(C)C)C(C)(C)C
product | 2-(3-Furyl)-4-(trifluoromethyl)phenyl acetate | 8.04 g, 86.6% | C(C)(=O)OC1=C(C=C(C=C1)C(F)(F)F)C1=COC=C1 | C13H9F3O3
